US08871792B2
(R)-3-[N-(5′-Chloro-2′-fluorobiphenyl-4-ylmethyl)-N′-(5-oxo-1-phenyl-4,5-dihydro-1H-[1,2,4]triazole-3-carbonyl)hydrazino]-2-hydroxypropionic Acid Isobutyl Ester
5-Oxo-1-phenyl-4,5-dihydro-1H-[1,2,4]triazole-3-carboxylic acid (89.5 mg, 436 μmol) was combined with HCTU (244 mg, 589 μmol) in DMF (1.0 mL, 13 mmol) and stirred for 10 minutes. (R)-3-[N-(5′-chloro-2′-fluorobiphenyl-4-ylmethyl)hydrazino]-2-hydroxypropionic acid ethyl ester (80.0 mg, 0.2 mmol) and DIPEA (0.1 mL, 0.7 mmol) were added, and the resulting mixture was stirred overnight. The mixture was diluted with EtOAc (10.0 mL) and washed with water (3.0 mL), saturated aqueous NaHCO3 (2×3.0 mL), and saturated aqueous NaCl (3.0 mL), then dried over Na2SO4, filtered and concentrated to give a yellowish solid. A portion (20 mg) of the solid was treated with isobutyl alcohol (170 μL, 1.8 mmol) and 4.0 M HCl in 1,4-dioxane (36.0 μL, 144 μmol) at room temperature overnight. The mixture was concentrated, and the residue was dissolved in AcOH (1.5 mL), filtered, and purified by reverse phase preparative HPLC to yield the title compound (1.6 mg, purity 100%). MS m/z [M+H]+ calc'd for C29H29ClFN3O3, 582.18. found 582.4.

reactant | 5-Oxo-1-phenyl-4,5-dihydro-1H-[1,2,4]triazole-3-carboxylic acid | 436 μmol, 89.5 mg | O=C1NC(=NN1C1=CC=CC=C1)C(=O)O | C9H7N3O3
reactant | HCTU | 589 μmol, 244 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC(Cl)=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DMF | 13 mmol, 1.0 mL | CN(C)C=O | C3H7NO
reactant | (R)-3-[N-(5′-chloro-2′-fluorobiphenyl-4-ylmethyl)hydrazino]-2-hydroxypropionic acid ethyl ester | 0.2 mmol, 80.0 mg | C(C)OC([C@@H](CN(N)CC1=CC=C(C=C1)C1=C(C=CC(=C1)Cl)F)O)=O | C18H20ClFN2O3
reactant | DIPEA | 0.7 mmol, 0.1 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | isobutyl alcohol | 1.8 mmol, 170 μL | C(C(C)C)O | C4H10O
reactant | HCl | 4.0 M | Cl | ClH
reactant | 1,4-dioxane | 144 μmol, 36.0 μL | O1CCOCC1 | C4H8O2
solvent | EtOAc | 10.0 mL | CCOC(=O)C | C4H8O2
product | (R)-3-[N-(5′-Chloro-2′-fluorobiphenyl-4-ylmethyl)-N′-(5-oxo-1-phenyl-4,5-dihydro-1H-[1,2,4]triazole-3-carbonyl)hydrazino]-2-hydroxypropionic Acid Isobutyl Ester | 1.6 mg | C(C(C)C)OC([C@@H](CN(NC(=O)C1=NN(C(N1)=O)C1=CC=CC=C1)CC1=CC=C(C=C1)C1=C(C=CC(=C1)Cl)F)O)=O | C29H29ClFN5O5
